US07138425B2
b) 2-(3-Nitro-4-chlorophenyl)-5-phenylbenzoxazole
Prepared by the method of Example 15c), from N-(5-phenyl-2-hydroxyphenyl)-3-nitro-4-chlorobenzamide (3.76 g, 10 mmol) and p-toluenesulfonic acid monohydrate (3.80 g, 20 mmol) the subtitle compound was obtained (1.28 g, 40%). MS 351.1 (M+H)+.

reactant | N-(5-phenyl-2-hydroxyphenyl)-3-nitro-4-chlorobenzamide | 10 mmol, 3.76 g | C1(=CC=CC=C1)C=1C=CC(=C(C1)NC(C1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O)O | C19H13ClN2O4
reactant | p-toluenesulfonic acid monohydrate | 20 mmol, 3.80 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(3-Nitro-4-chlorophenyl)-5-phenylbenzoxazole | [N+](=O)([O-])C=1C=C(C=CC1Cl)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H11ClN2O3
